US08349851B2
To crude (3-chloro-4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone (458 mg, 1.2 mmol) in 1:1 MeOH/THF (60 mL) at 0° C. was added sodium borohydride (0.048 g, 1.3 mmol), and the solution was stirred for 30 min. The reaction was quenched by addition of 6 N HCl and the mixture was concentrated to dryness. The residue was purified by silica gel chromatography eluting with 0-15% MeOH/DCM. The resulting solid was triturated with methanol to afford (3-chloro-4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanol (42 mg). 1H NMR (300 MHz, DMSO-d6) δ 2.27 (s, 3H) 5.70 (s, 1H) 6.01 (s, 1H) 6.41(s, 1H) 7.36 (t, 1H) 7.47-7.52 (m, 2H) 7.79-7.82 (m, 3H) 8.59 (d, 1H) 10.42 (bs, 1H) 12.16 (bs, 1H); LC-MS (ESI) m/z 384 (M+H)+.

reactant | (3-chloro-4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone | 1.2 mmol, 458 mg | ClC=1C=C(C=CC1F)C(=O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H13ClFN5O
reactant | sodium borohydride | 1.3 mmol, 0.048 g | [BH4-].[Na+]
solvent | MeOH THF | 60 mL | CO.C1CCOC1
product | (3-chloro-4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanol | 42 mg | ClC=1C=C(C=CC1F)C(O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H15ClFN5O
